US04659360
To a stirred solution of 2.7 grams (0.006 mole) N-(o-carbomethoxybenzylidene)-2-hydroxy-4-(2-chloro-4-trifluoromethylphenoxy)aniline in 25 ml of chloroform was added portionwise 2.9 grams (0.007 mole) lead tetraacetate. The reaction mixture was stirred for an additional hour, then washed sequentially with three portions of water and an aqueous saturated sodium chloride solution. The organic layer was concentrated under reduced pressure to a residual oil. The oil was dissolved in methylene chloride and passed through a column of activated magnesium silicate. The appropriate fractions were combined and concentrated under reduced pressure to give 2.2 grams of 2-(o-carbomethoxyphenyl)-6-(2-chloro-4-trifluoromethylphenoxy)-benzoxazole as an oil. The nmr spectrum was consistent with the proposed structure.

reactant | N-(o-carbomethoxybenzylidene)-2-hydroxy-4-(2-chloro-4-trifluoromethylphenoxy)aniline | 0.006 mole, 2.7 grams | C(=O)(OC)C1=C(C=NC2=C(C=C(C=C2)OC2=C(C=C(C=C2)C(F)(F)F)Cl)O)C=CC=C1 | C22H15ClF3NO4
reactant | lead tetraacetate | 0.007 mole, 2.9 grams | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(o-carbomethoxyphenyl)-6-(2-chloro-4-trifluoromethylphenoxy)-benzoxazole | 2.2 grams | C(=O)(OC)C1=C(C=CC=C1)C=1OC2=C(N1)C=CC(=C2)OC2=C(C=C(C=C2)C(F)(F)F)Cl | C22H13ClF3NO4
